Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.31594243625
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.81080440839
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2]=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.896876282230001
[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.52856727499
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.427957252540001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],2.56654839991
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:5],4.21196185292
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.25680771796
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:10][H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],10.859635685399999
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([O:4][H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.72590773863
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8],2.86381142295
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.070390487180002
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.05382893811
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][H:9].[H:7]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.5651098163
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.77266516567
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.53665504434
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.91855922977
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.71798619318
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][O:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][O:11],-0.669213481219
[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.44821666529
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.17031129298
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],-5.59908632996
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],2.91544808275
[H:1][C:2]1=[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[O:9]1>>[H:1][C:2][O:9][C:5]([O:4][C:3])=[C:6]([H:7])[H:8],4.2606052163699974
[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.00006340471
[H:1][O:2][C:3]1[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4])[C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11],2.86692862986
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],4.0479368755500005
